US04267176
1 N Sodium hydroxide (27.5 ml.) was added to a stirred solution of ethyl 2-(6-formamidopyridin-2-yl)-glyoxylate (5.55 g.) in ethanol (100 ml.) at room temperature, and the solution was stirred at the same temperature for 30 minutes. To the solution was added hydroxylamine hydrochloride (1.9 g.) all at once, and the solution was stirred at room temperature for 2 hours. After removing ethanol from the resultant solution under reduced pressure, ethylacetate was added to the residue, and then the solution was adjusted to pH 7 with an aqueous solution of sodium bicarbonate. The aqueous layer was separated and adjusted to pH 2 with 10% hydrochloric acid. The precipitates were collected by filtration, washed with water and dried to give 2-(6-formamidopyridin-2-yl)-2-hydroxyiminoacetic acid (3.6 g.), mp 190° to 192° C. (dec.).

reactant | Sodium hydroxide | 1 N, 27.5 ml | [OH-].[Na+]
reactant | ethyl 2-(6-formamidopyridin-2-yl)-glyoxylate | 5.55 g | C(=O)NC1=CC=CC(=N1)C(C(=O)OCC)=O | C10H10N2O4
reactant | hydroxylamine hydrochloride | 1.9 g | Cl.NO
solvent | ethanol | 100 ml | C(C)O | C2H6O
product | 2-(6-formamidopyridin-2-yl)-2-hydroxyiminoacetic acid | 3.6 g | C(=O)NC1=CC=CC(=N1)C(C(=O)O)=NO | C8H7N3O4
